US06093718
Dichloropyrimidine (24.79 g) and 1-(tert-butoxycarbonyl)piperazine (27.41 g) were stirred in ethanol (500 ml) and triethylamine (41 ml) overnight. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The organic phase was dried (Na2SO2), and evaporated to give 2-methyl-4-chloro-6-[1-(tert-butoxycarbonyl]piperazin-4-yl)pyrimidine as a solid (41.5 g); NMR (CDCl3): 6.35 (s, 1H), 3.65 (m, 4H), 3.5 (m, 4H), 2.5 (s, 3H), 1.45 (s, 9H).

reactant | Dichloropyrimidine | 24.79 g | ClC1=CC(=NC=N1)Cl | C4H2Cl2N2
reactant | 1-(tert-butoxycarbonyl)piperazine | 27.41 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 41 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-methyl-4-chloro-6-[1-(tert-butoxycarbonyl]piperazin-4-yl)pyrimidine | 41.5 g | CC1=NC(=CC(=N1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C14H21ClN4O2
